US07994164B2
(3R,4R)-4-(4-Bromo-2-nitro-phenylamino)-piperidin-3-ol.hydrochloride salt
Add 4.0 M hydrogen chloride in dioxane (70 mL) slowly to a solution of (3R,4R)-4-(4-bromo-2-nitro-phenylamino)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.027 mol, 11.5 g) in dry dichloromethane (40 mL) at room temperature and stir for 16 h. Filter the precipitate and dry under vacuum to obtain the title compound (8.68 g, 89%) as a yellow solid. 1H NMR (400 MHz, CD3OD) δ 1.81-1.86 (m, 1H), 2.39-2.44 (m, 1H), 3.02-3.07 (m, 1H), 3.18-3.26 (m, 1H), 3.34-3.40 (m, 1H), 3.45 (dd, 1H), 3.87-3.91 (m, 2H), 7.17 (d, 1H), 7.61 (dd, 1H), 8.28 (d, 1H).

reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | (3R,4R)-4-(4-bromo-2-nitro-phenylamino)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.027 mol, 11.5 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-])O | C16H22BrN3O5
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (3R,4R)-4-(4-Bromo-2-nitro-phenylamino)-piperidin-3-ol.hydrochloride salt | 8.68 g, 89% | Cl.BrC1=CC(=C(C=C1)N[C@H]1[C@@H](CNCC1)O)[N+](=O)[O-] | InChI=1S/C11H14BrN3O3.ClH/c12-7-1-2-8(10(5-7)15(17)18)14-9-3-4-13-6-11(9)16;/h1-2,5,9,11,13-14,16H,3-4,6H2;1H/t9-,11-;/m1./s1
